US04963580
Preparation of 6-t-Butyl-2,3-dihydrobenzothiophene
To a solution of 5-hydroxy-2,3-dihydrobenzothiophene (500 mg, 3.28 mmoles) in 20 mL benzene in a sealable tube was added t-butanol (729 mg, 9.84 mmoles, 3.0 eq) and 0.4 mL concentrated H2SO4. The tube was sealed and the reaction mixture heated at 60° C. for 24 hours. The reaction mixture was cooled, diluted with water (50 mL) and extracted 2×25 mL ether. The combined extracts were washed with sodium bicarbonate (1×25 mL), H2O (1×25 mL) and brine (1×25 mL). The organic layer was then dried over Na2SO4, filtered and concentrated to give 220 mg crude product. Purification by flash chromatography (90/10, hexane/EtOAc) afforded 125 mg pure product (18%) mp 90°-93° C.

reactant | 5-hydroxy-2,3-dihydrobenzothiophene | 3.28 mmoles, 500 mg | OC=1C=CC2=C(CCS2)C1 | C8H8OS
reactant | t-butanol | 9.84 mmoles, 729 mg, 3.0 eq | C(C)(C)(C)O | C4H10O
reactant | H2SO4 | 0.4 mL | OS(=O)(=O)O | H2O4S
solvent | benzene | 20 mL | C1=CC=CC=C1 | C6H6
solvent | water | 50 mL | O | H2O
product | 6-t-Butyl-2,3-dihydrobenzothiophene | 125 mg, 18% | C(C)(C)(C)C1=CC2=C(CCS2)C=C1 | C12H16S
